US07183300B2
Step 2. 1-(3-chloro-4-methylphenyl)-3-(4-((isopropyl(methyl)amino)methyl)thiazol-2-yl)urea
4-((isopropyl(methyl)amino)methyl)thiazol-2-amine (18 mg, 0.1 mmol) in dichloromethane (0.5 mL) is added to 3-chloro-4-methylphenyl isocyanate (16.7 mg, 0.1 mmol) in dichloromethane (0.5 mL). The resulting reaction mixture is shaken at room temperature for 1 hour. The solvent is evaporated under vacuum. The residue is purified by preparative LC to yield a brown glass LCMS, retention time: 1.87 min, M+H+: 353. H1-NMR (DMSO, σ ppm): 10.82 (s, 1H), 9.51–9.41 (s, br, 1H), 9.31 (s, 1H), 7.70 (s, 1H), 7.33 (s, 1H), 7.18–7.30 (m, 2H), 4.11–4.39 (m, 2H), 2.69 (d, 3H), 2.28 (s, 3H), 1.29 (t, 6H)).

reactant | 4-((isopropyl(methyl)amino)methyl)thiazol-2-amine | 0.1 mmol, 18 mg | C(C)(C)N(C)CC=1N=C(SC1)N | C8H15N3S
reactant | 3-chloro-4-methylphenyl isocyanate | 0.1 mmol, 16.7 mg | ClC=1C=C(C=CC1C)N=C=O | C8H6ClNO
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 1-(3-chloro-4-methylphenyl)-3-(4-((isopropyl(methyl)amino)methyl)thiazol-2-yl)urea | ClC=1C=C(C=CC1C)NC(=O)NC=1SC=C(N1)CN(C)C(C)C | C16H21ClN4OS
